US07812028B2
Preparation of N—((R)-1-Hydroxymethyl-3-methyl-butyl)-6-pyrrolidin-1-yl-5-(4-trifluoromethoxy-phenyl)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 43, using 5-bromo-6-chloro-nicotinic acid methyl ester, pyrrolidine (commercially available), 4-trifluoromethoxyphenyl-boronic acid (commercially available) and (R)-(−)-leucinol (commercially available) as starting materials. MS (ISP): 452.3 (M+H+).

reactant | 5-bromo-6-chloro-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 4-trifluoromethoxyphenyl-boronic acid | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | (R)-(−)-leucinol | N[C@H](CC(C)C)CO | C6H15NO
product | N—((R)-1-Hydroxymethyl-3-methyl-butyl)-6-pyrrolidin-1-yl-5-(4-trifluoromethoxy-phenyl)-nicotinamide | OC[C@@H](CC(C)C)NC(C1=CN=C(C(=C1)C1=CC=C(C=C1)OC(F)(F)F)N1CCCC1)=O | C23H28F3N3O3
